US05073641
2-[2-(ACETYLOXY)BENZOYLOXY]-N,N-DIETHYLACETAMIDE
To a mixture of acetylsalicylic acid (5.4 g. 0.03 mole) and 2-chloro-N,N-diethylacetamide (4.5 g, 0.03 mole) in 40 ml of ethyl acetate was added triethylamine (4.2 ml, 0.03 mole) and sodium iodide (0.45 g, 0.003 mole). The mixture was refluxed for 4 h. After cooling the mixture was filtered and the filtrate washed with 2M hydrochloric acid, 5% sodium bicarbonate and water. After drying over anhydrous sodium sulphate the solution was evaporated in vacuo leaving an oil which crystallized by trituration with ethanol. Recrystallization from 80% ethanol afforded 6.2 g (70%) of the title compound. Mp 75°-76° C.

reactant | acetylsalicylic acid | 0.03 mole, 5.4 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 2-chloro-N,N-diethylacetamide | 0.03 mole, 4.5 g | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | triethylamine | 0.03 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.003 mole, 0.45 g | [I-].[Na+]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(ACETYLOXY)BENZOYLOXY]-N,N-DIETHYLACETAMIDE | 6.2 g, 70% | C(C)(=O)OC1=C(C(=O)OCC(=O)N(CC)CC)C=CC=C1 | C15H19NO5
